US08492378B2
To a solution of 2-fluoroisonicotinic acid (620 mg, 4.95 mmol) and 4-(methylthio)aniline (0.984 mL, 8.42 mmol) in N,N-dimethylformamide (20 mL) was added sodium hydride (792 mg, 19.8 mmol), and the resulting mixture was stirred under an argon atmosphere at 85° C. for 5 hr. After cooling, acetic acid (1.2 mL) was added to the reaction mixture, and the mixture was concentrated under reduced pressure. Ethyl acetate and water were added to the residue, the mixture was stirred for 20 min, and the precipitate was collected by filtration to give crude 2-[[4-(methylthio)phenyl]amino]isonicotinic acid.

reactant | 2-fluoroisonicotinic acid | 4.95 mmol, 620 mg | FC=1C=C(C(=O)O)C=CN1 | C6H4FNO2
reactant | 4-(methylthio)aniline | 8.42 mmol, 0.984 mL | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | sodium hydride | 19.8 mmol, 792 mg | [H-].[Na+]
reactant | acetic acid | 1.2 mL | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-[[4-(methylthio)phenyl]amino]isonicotinic acid | CSC1=CC=C(C=C1)NC=1C=C(C(=O)O)C=CN1 | C13H12N2O2S
